US08471005B2
Into a 1-neck round-bottom flask, 1-(3-Methoxy-phenyl)-cyclobutanecarboxylic acid (5.00 g, 24.2 mmol), N,N-Diisopropylethylamine (7.52 g, 58.2 mmol), tert-Butyl alcohol (100 mL, 1000 mmol) and Diphenylphosphonic azide (8.01 g, 29.1 mmol) were added. The reaction was heated at 110° C. overnight. The solvent was removed under vacuum to give a semi solid. The reaction was partitioned with water and DCM. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum to give an oil. The reaction mixture was purified via ISCO column chromatography with hexane and EtOAc. The collected fractions afforded [1-(3-Methoxy-phenyl)-cyclobutyl]-carbamic acid tert-butyl ester as a clear oil (4.20 g, 65%).

reactant | 1-(3-Methoxy-phenyl)-cyclobutanecarboxylic acid | 24.2 mmol, 5.00 g | COC=1C=C(C=CC1)C1(CCC1)C(=O)O | C12H14O3
reactant | N,N-Diisopropylethylamine | 58.2 mmol, 7.52 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tert-Butyl alcohol | 1000 mmol, 100 mL | C(C)(C)(C)O | C4H10O
reactant | Diphenylphosphonic azide | 29.1 mmol, 8.01 g | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
product | [1-(3-Methoxy-phenyl)-cyclobutyl]-carbamic acid tert-butyl ester | 4.20 g, 65% | C(C)(C)(C)OC(NC1(CCC1)C1=CC(=CC=C1)OC)=O | C16H23NO3
